US07381736B2
[(2-Bromo-4-{[(3,4-dichloro-phenyl)-(4-phenyl-thiazol-2-yl)-amino]-methyl}-phenyl)-difluoro-methyl]-phosphonic acid diethyl ester:
To (3,4-Dichloro-phenyl)-(4-phenyl-thiazol-2-yl)-amine (0.34 g, 1.04 mmol) in DMF (5 mL) was added K2CO3 (0.23 g, 1.71 mmol). After 0.1 hour, [(2-Bromo-4-bromomethyl-phenyl)-difluoro-methyl]-phosphonic acid diethyl ester (0.15 g, 0.34 mmol) was added and the resulting mixture was stirred at room temperature overnight. The reaction was partitioned between ethyl acetate and H2O, after which the organic layer was dried over NaSO4 and concentrated in vacuo. The resulting material was purified via column chromatography (1/1 hexanes/ethyl acetate) to yield 0.176 g (76%) of a clear, colorless oil; 1H NMR (300 MHz, CDCl3) δ 7.84-7.22 (m, 11 H), 6.81 (s, 1 H), 5.23 (s, 2 H), 4.23 (m, 4 H), 1.31 (t, J=7.5 Hz, 6 H).

reactant | (3,4-Dichloro-phenyl)-(4-phenyl-thiazol-2-yl)-amine | 1.04 mmol, 0.34 g | ClC=1C=C(C=CC1Cl)NC=1SC=C(N1)C1=CC=CC=C1 | C15H10Cl2N2S
reactant | K2CO3 | 1.71 mmol, 0.23 g | C(=O)([O-])[O-].[K+].[K+]
reactant | [(2-Bromo-4-bromomethyl-phenyl)-difluoro-methyl]-phosphonic acid diethyl ester | 0.34 mmol, 0.15 g | C(C)OP(OCC)(=O)C(F)(F)C1=C(C=C(C=C1)CBr)Br | C12H15Br2F2O3P
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | [(2-Bromo-4-{[(3,4-dichloro-phenyl)-(4-phenyl-thiazol-2-yl)-amino]-methyl}-phenyl)-difluoro-methyl]-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)C(F)(F)C1=C(C=C(C=C1)CN(C=1SC=C(N1)C1=CC=CC=C1)C1=CC(=C(C=C1)Cl)Cl)Br | C27H24BrCl2F2N2O3PS
